US09255094B2
Preparation of 1-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)butan-2-ol (Compound Nos. 1-23)
A flask was charged with sodium hydride (0.581 g, 50-60%) in dry DMF (10 mL) at 0° C. and to it was added 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (0.8 g). The reaction mixture was stirred at RT for 30 min, and then to this was added 4-(2-ethyloxiran-2-yl)pyridine (0.758 g) dissolved in DMF (2 mL), and stirred at RT for 12 h. The reaction mixture was diluted with ice-water and extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and evaporated. The crude product was triturated with diethyl ether to obtain the desired compound. 1HNMR (DMSO, Oxalate salt) d (ppm): 8.45 (d, 2H), 7.40 (m, 4H), 7.0 (d, 1H), 4.38 (m, 1H), 4.22 (m, 1H), 3.60 (m, 2H), 3.35 (m, 2H), 3.10 (m, 2H), 2.90 (s, 3H), 2.10 (m, 2H), 0.6 (t, 3H).

reactant | sodium hydride | 0.581 g | [H-].[Na+]
reactant | 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 0.8 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | 4-(2-ethyloxiran-2-yl)pyridine | 0.758 g | C(C)C1(OC1)C1=CC=NC=C1 | C9H11NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)butan-2-ol | ClC1=CC=2C3=C(N(C2C=C1)CC(CC)(O)C1=CC=NC=C1)CCN(C3)C | C21H24ClN3O
